US08034125B2
Step 2: Synthesis of 1,1′-(Disulfanediyldiethane-2,1-Diyl)Bis(4-Methylpyridinium) Dimethanesulfonate
3.51 g of 4-picoline and 5 g of disulfanediyldiethane-2,1-diyl dimethanesulfonate are diluted in 5 mL of N-methylpyrrolidinone (NMP) and then heated at 80° C. with stirring for 2 hours. Stirring is continued at room temperature for 17 hours. The reaction medium is made up with 50 mL of ethyl acetate and then filtered, washed with three times 100 mL of EtOAC and dried under vacuum over P2O5. 7.29 g of brown powder are collected. The analyses indicate that the product is in accordance and pure.

reactant | 4-picoline | 3.51 g | N1=CC=C(C=C1)C | C6H7N
reactant | disulfanediyldiethane-2,1-diyl dimethanesulfonate | 5 g | CS(=O)(=O)OCCSSCCOS(=O)(=O)C | C6H14O6S4
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | N-methylpyrrolidinone | 5 mL | CN1C(CCC1)=O | C5H9NO
product | 1,1′-(Disulfanediyldiethane-2,1-Diyl)Bis(4-Methylpyridinium) Dimethanesulfonate | CS(=O)(=O)[O-].CS(=O)(=O)[O-].S(SCC[N+]1=CC=C(C=C1)C)CC[N+]1=CC=C(C=C1)C | InChI=1S/C16H22N2S2.2CH4O3S/c1-15-3-7-17(8-4-15)11-13-19-20-14-12-18-9-5-16(2)6-10-18;2*1-5(2,3)4/h3-10H,11-14H2,1-2H3;2*1H3,(H,2,3,4)/q+2;;/p-2
